### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Lagrange): Formula for leading coefficient of a polynomial

### PR DESCRIPTION
**Pull request by YuvalFilmus**
Added `leadingCoeff_interpolate`, which gives a formula for the leading coefficient of a polynomial that follows from Lagrange interpolation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Lagrange.lean [hunk 1]
```diff
@@ -442,6 +453,45 @@ theorem interpolate_eq_add_interpolate_erase (hvs : Set.InjOn v s) (hi : i ∈ s
     sdiff_singleton_eq_erase]
   exact insert_subset_iff.mpr ⟨hi, singleton_subset_iff.mpr hj⟩
 
+open scoped Classical in
+theorem interpolate_poly_eq_poly
+    (hvs : Set.InjOn v s) {P : Polynomial F} (hP : P.degree < s.card) :
+    (interpolate s v) (fun (i : ι) => P.eval (v i)) = P := by
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Lagrange.lean]:
```suggestion
    interpolate s v (fun i => P.eval (v i)) = P := by
```

File: Mathlib/LinearAlgebra/Lagrange.lean [hunk 2]
```diff
@@ -442,6 +453,45 @@ theorem interpolate_eq_add_interpolate_erase (hvs : Set.InjOn v s) (hi : i ∈ s
     sdiff_singleton_eq_erase]
   exact insert_subset_iff.mpr ⟨hi, singleton_subset_iff.mpr hj⟩
 
+open scoped Classical in
+theorem interpolate_poly_eq_poly
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Lagrange.lean]: This should probably be named something like `interpolate_eval_eq_self` instead.

File: Mathlib/LinearAlgebra/Lagrange.lean [hunk 3]
```diff
@@ -442,6 +453,45 @@ theorem interpolate_eq_add_interpolate_erase (hvs : Set.InjOn v s) (hi : i ∈ s
...
+  · rw [ht]
+    apply degree_interpolate_lt _ hvs
+  · rw [ht]
+    exact hP
+  · intro x hx
+    obtain ⟨i, hi, hx⟩ := Finset.mem_image.mp hx
+    rw [← hx, eval_interpolate_at_node _ hvs hi]
+
+open scoped Classical in
+theorem leadingCoeff_interpolate
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Lagrange.lean]: I am confused by this name. `interpolate` does not appear in the statement?

File: Mathlib/LinearAlgebra/Lagrange.lean [hunk 4]
```diff
@@ -442,6 +453,45 @@ theorem interpolate_eq_add_interpolate_erase (hvs : Set.InjOn v s) (hi : i ∈ s
     sdiff_singleton_eq_erase]
   exact insert_subset_iff.mpr ⟨hi, singleton_subset_iff.mpr hj⟩
 
+open scoped Classical in
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Lagrange.lean:452]: Please use the `classical` tactic instead of this.

File: Mathlib/LinearAlgebra/Lagrange.lean (hunk 3 above)
Comment (YuvalFilmus) [reply Mathlib/LinearAlgebra/Lagrange.lean]: Changed to `leadingCoeff_eq_sum`, which I think is also sub-optimal. Happy to hear suggestions.

File: Mathlib/LinearAlgebra/Lagrange.lean [hunk 5]
```diff
@@ -276,6 +276,17 @@ theorem basisDivisor_add_symm {x y : F} (hxy : x ≠ y) :
...
+theorem leadingCoeff_basis (hvs : Set.InjOn v s) (hi : i ∈ s) :
+    (Lagrange.basis s v i).leadingCoeff = (∏ j ∈ s.erase i, ((v i) - (v j)))⁻¹ := by
+  rw [leadingCoeff, natDegree_basis hvs hi, Lagrange.basis]
+  unfold basisDivisor
+  rw [Finset.prod_mul_distrib, ← Finset.prod_inv_distrib, ←map_prod, coeff_C_mul]
+  rw [← Finset.card_erase_of_mem hi]
+  have : (∏ j ∈ s.erase i, (X - C (v j))).Monic := monic_prod_X_sub_C _ _
+  have := this.coeff_natDegree
+  rw [natDegree_finset_prod_X_sub_C_eq_card] at this
+  rw [this, mul_one]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Lagrange.lean]:
```suggestion
  have : (∏ j ∈ s.erase i, (X - C (v j))).coeff (#s - 1) = 1 := by
    simpa [hi] using (monic_prod_X_sub_C v (s.erase i)).coeff_natDegree
  simp_rw [leadingCoeff, natDegree_basis hvs hi, Lagrange.basis]
  simp [basisDivisor, Finset.prod_mul_distrib, ← map_prod, this]
```

File: Mathlib/LinearAlgebra/Lagrange.lean [hunk 6]
```diff
@@ -442,6 +453,45 @@ theorem interpolate_eq_add_interpolate_erase (hvs : Set.InjOn v s) (hi : i ∈ s
...
+  let t : Finset F := s.image v
+  have ht : t.card = s.card := Finset.card_image_iff.mpr hvs
+  apply eq_of_degrees_lt_of_eval_finset_eq t
+  · rw [ht]
+    apply degree_interpolate_lt _ hvs
+  · rw [ht]
+    exact hP
+  · intro x hx
+    obtain ⟨i, hi, hx⟩ := Finset.mem_image.mp hx
+    rw [← hx, eval_interpolate_at_node _ hvs hi]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Lagrange.lean]:
```suggestion
  · rwa [ht]
  · intro x hx
    obtain ⟨i, hi, rfl⟩ := Finset.mem_image.mp hx
    rw [eval_interpolate_at_node _ hvs hi]
```

File: Mathlib/LinearAlgebra/Lagrange.lean [hunk 7]
```diff
@@ -442,6 +453,45 @@ theorem interpolate_eq_add_interpolate_erase (hvs : Set.InjOn v s) (hi : i ∈ s
...
+
+theorem leadingCoeff_eq_sum
+    (hvs : Set.InjOn v s) {P : Polynomial F} (hP : s.card = P.degree + 1) :
+    P.leadingCoeff = ∑ i ∈ s, (P.eval (v i)) / ∏ j ∈ s.erase i, ((v i) - (v j)) := by
+  have P_degree : P.degree = ↑(s.card - 1) := by
+    cases h : P.degree
+    case bot => rw [h] at hP; simp at hP
+    case coe d => rw [h] at hP; simp [ENat.coe_inj.mp hP]; rfl
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Lagrange.lean]: This goal has nothing to do with `ENat`, so there is some rather heavy defeq abuse going on here. I suppose `rw?` or `apply?` maybe found this lemma?

Comment (jcommelin) [inline Mathlib/LinearAlgebra/Lagrange.lean]:
```suggestion
    case bot => simp_all
    case coe d =>
      rw [Nat.cast_withBot] at hP ⊢
      suffices #s = d + 1 by grind
      rw [h] at hP
      simp [← WithBot.coe_inj, hP]
```

File: Mathlib/LinearAlgebra/Lagrange.lean [hunk 8]
```diff
@@ -442,6 +453,45 @@ theorem interpolate_eq_add_interpolate_erase (hvs : Set.InjOn v s) (hi : i ∈ s
...
+  have P_natDegree : P.natDegree = s.card - 1 := natDegree_eq_of_degree_eq_some P_degree
+  have s_card : s.card > 0 := by
+    by_contra! h
+    have : s.card = 0 := by omega
+    rw [this, P_degree] at hP
+    have := ENat.coe_inj.mp hP
+    dsimp at this
+    omega
+  have hP' : P.degree < s.card := by rw [P_degree, Nat.cast_lt]; omega
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Lagrange.lean]:
```suggestion
  have s_card : s.card > 0 := by by_contra! h; simp_all
  have hP' : P.degree < s.card := by grind [Nat.cast_lt]
```

File: Mathlib/LinearAlgebra/Lagrange.lean (hunk 7 above)
Comment (YuvalFilmus) [reply Mathlib/LinearAlgebra/Lagrange.lean]: I agree that the API for degree is hard to work with.
Unfortunately `rw?` and `apply?` are useless here.
It's frustrating.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
